US07528147B2
A mixture of 3.1 g of 5-fluoro-2-iodo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine, 2.4 g of 1-tert-butyloxycarbonyl-5,6-dimethoxy-1H-indole-3-boronic acid and 20.3 ml of a saturated aqueous sodium hydrogen carbonate solution in 100 ml of dimethylformamide is degassed with argon for approximately 15 minutes and then 0.43 g of tetrakis(triphenylphosphine)palladium is added. The mixture is heated at around 110° C. for approximately 2 hours and then concentrated to dryness under reduced pressure (13 kPa). The residue is taken up with 500 ml of water, and extracted with three times 250 ml of ethyl acetate. The combined organic phases are dried over magnesium sulfate, filtered, and concentrated to dryness under reduced pressure. The residue is taken up with 100 ml of diisopropyl ether, filter-dried, washed with three times 20 ml of diisopropyl ether, and dried under reduced pressure (13 kPa) in the presence of potassium hydroxide chips at a temperature in the region of 20° C. 2.66 g of 2-(5,6-dimethoxy-1H-indol-3-yl)-5-fluoro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine are obtained in the form of a solid, the characteristics of which are as follows:

reactant | 5-fluoro-2-iodo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 3.1 g | FC=1C=C2C(=NC1)N(C(=C2)I)S(=O)(=O)C2=CC=C(C=C2)C | C14H10FIN2O2S
reactant | 1-tert-butyloxycarbonyl-5,6-dimethoxy-1H-indole-3-boronic acid | 2.4 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC(=C(C=C12)OC)OC)B(O)O | C15H20BNO6
reactant | sodium hydrogen carbonate | 20.3 ml | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-(5,6-dimethoxy-1H-indol-3-yl)-5-fluoro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 2.66 g | COC=1C=C2C(=CNC2=CC1OC)C1=CC=2C(=NC=C(C2)F)N1S(=O)(=O)C1=CC=C(C=C1)C | C24H20FN3O4S
